US04411901
α-[3-[4-(1,2-Benzisothiazol-3-yl)-1-piperazinyl]propyl]-4-fluorobenzenemethanol
Sodium borohydride (1.0 g., 0.026 mole) is added portionwise to a stirred suspension of 4-[4-(1,2-benzisothiazol-3-yl)-1-piperazinyl]-1-(4-fluorophenyl)-1-butanone hydrochloride (3.34 g., 0.008 mole) in 150 ml. of absolute ethanol. The mixture is stirred for a 20 hr. period, acidified with ethanolic hydrogen chloride, stirred for an additional 2 hr. period and concentrated in vacuo. Residual material is partitioned between chloroform and 1 N aqueous sodium hydroxide and the chloroform phase dried over magnesium sulfate and concentrated in vacuo to afford 2.31 g. (69% yield) of the title compound as the free base. The free base is converted to the hydrochloride in ethanol with ethanolic hydrogen chloride to afford α-[3-[4-(1,2-benzisothiazol-3-yl)-1-piperazinyl]propyl]-4-fluorobenzenemethanol hydrochloride, m.p. 200°-202° C.

reactant | Sodium borohydride | 0.026 mole, 1.0 g | [BH4-].[Na+]
reactant | 4-[4-(1,2-benzisothiazol-3-yl)-1-piperazinyl]-1-(4-fluorophenyl)-1-butanone hydrochloride | 0.008 mole, 3.34 g | Cl.S1N=C(C2=C1C=CC=C2)N2CCN(CC2)CCCC(=O)C2=CC=C(C=C2)F
reactant | hydrogen chloride | Cl | ClH
solvent | ethanol | C(C)O | C2H6O
product | α-[3-[4-(1,2-Benzisothiazol-3-yl)-1-piperazinyl]propyl]-4-fluorobenzenemethanol | 69% yield | S1N=C(C2=C1C=CC=C2)N2CCN(CC2)CCCC(O)C2=CC=C(C=C2)F | C21H24FN3OS
